US09326987B2
4-Bromo-6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indole
To a mixture of 4-bromo-6-fluoro-1H-indole (2 g) in DMF (5 ml) was added sodium hydride (60% in mineral oil) (0.448 g). The reaction was stirred at 20° C. for 10 min. 4-Nitrobenzenesulfonyl chloride (2.278 g) was added and the reaction was stirred at 20° C. for 1 h. The mixture was poured onto water (100 ml), and extracted with DCM (50 ml) which was separated by hydrophobic frit. Purification by silica (2×100 g) on Flashmaster II using a gradient of DCM and cyclohexane gave the title compound as a pale yellow solid, 1.54 g.

reactant | 4-bromo-6-fluoro-1H-indole | 2 g | BrC1=C2C=CNC2=CC(=C1)F | C8H5BrFN
reactant | sodium hydride | 0.448 g | [H-].[Na+]
reactant | 4-Nitrobenzenesulfonyl chloride | 2.278 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indole | BrC1=C2C=CN(C2=CC(=C1)F)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H8BrFN2O4S
